US04122265
A solution of 34.6 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid[ 2-(diethylamino)ethyl]-methylamide cyclohexanesulfamate in 400 ml. of water is treated with excess 2-N ammonium hydroxide. The liberated base is extracted with methylene chloride and the extract evaporated to dryness. To the obtained residue, there is added a solution of 86.4 g. of ceric ammonium nitrate in 150 ml. of water and 150 ml. of glacial acetic acid. The mixture is stirred at 80° C. for 20 minutes, the color of the solution obtained changing from orange to light yellow. After cooling, 750 ml. of ice-water are added and the separated oil is extracted with methylene chloride. The organic phase is washed with 2-N ammonium hydroxide and a saturated sodium chloride solution, dried over sodium sulfate and concentrated to dryness. o-benzoyl-p-chlorophenylglyoxylic acid[ 2-(diethylamino)ethyl]methylamide is obtained as an oil which can be used in the process without further purification. With 2 mols of N-cyclohexylsulfamic acid, the base forms an addition compound which melts at 136°-138° C. (decomposition) after crystallization from isopropanol/diethyl ether.

reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid[ 2-(diethylamino)ethyl]-methylamide cyclohexanesulfamate | C1(CCCCC1)NS(=O)(=O)O.C(C)N(CCN(C(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)C)CC
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | water | O | H2O
product | o-benzoyl-p-chlorophenylglyoxylic acid[ 2-(diethylamino)ethyl]methylamide | C(C)N(CCN(C(C(=O)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O)C)CC | C22H25ClN2O3
